US08236806B2
1-(4-chlorophenyl)-6-hydroxyhexane-1,3-dione (Formula 5)
To 60 mL of benzene was added NaOMe (5.4 g, 99.612 mmol) under nitrogen atmosphere and stirred. The above mixture was added then with 30 mL of 4-chloroacetophenone (5.9 mL, 45.278 mmol) after mixing it with 30 mL of benzene and stirred for 30 min at 40° C. Then, γ-butyrolactone (7.0 mL, 90.556 mmol), after mixing it with 30 mL of benzene, was slowly added thereto and stirred for 16 hrs at 40° C. The progress and completion of the reaction were confirmed by means of TLC. Upon completion of the reaction, the reaction mixture was cooled down to room temperature and the solvent was removed from the reaction mixture under reduced pressure. The reaction mixture was diluted with EtOAc, and added with water. The aqueous layer was extracted with EtOAc and the organic layer was dried with anhydrous MgSO4 and filtered. The resulting filtrate was concentrated under reduced pressure and the resulting concentrate was passed through column chromatography (EtOAc:Hexane=1:1, v/v) to obtain 5.9 g (54%) of target compound.

reactant | NaOMe | 99.612 mmol, 5.4 g | C[O-].[Na+]
reactant | 4-chloroacetophenone | 45.278 mmol, 30 mL | CC(=O)C1=CC=C(C=C1)Cl | C8H7ClO
reactant | γ-butyrolactone | 90.556 mmol, 7.0 mL | C1(CCCO1)=O | C4H6O2
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 30 mL | C1=CC=CC=C1 | C6H6
solvent | benzene | 60 mL | C1=CC=CC=C1 | C6H6
product | 1-(4-chlorophenyl)-6-hydroxyhexane-1,3-dione | ClC1=CC=C(C=C1)C(CC(CCCO)=O)=O | C12H13ClO3
